US07452893B2
Step 5: trans 3-(2,2-Difluoro-2-p-tolyl-ethoxy)-cyclopentylamine
A mixture of 600 mg of trans [3-(2,2-Difluoro-2-p-tolyl-ethoxy)-cyclopentyl]-carbamic acid benzyl ester and 500 mg of 10% palladium on carbon in 25 mL of ethanol was stirred under an atmosphere of hydrogen for 2 h. Removal of the catalyst by filtration and concentration under reduced pressure gave 400 mg of product as an oil: MS (m+1)=256.3; 1H NMR (400 MHz, CDCl3) 7.4 (dd, 2H), 7.22 (dd, 2H), 4.05 (m, 1H), 3.75 (t, J=14 Hz, 2H), 3.5 (m, 1H), 2.4 (s, 3H), 2.2 (m, 2H), 2.0 (m, 2H), 1.62 (m, 1H), 1.5 (m, 1H), 1.24 (m, 1H).

reactant | trans [3-(2,2-Difluoro-2-p-tolyl-ethoxy)-cyclopentyl]-carbamic acid benzyl ester | 600 mg | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@H](CC1)OCC(C1=CC=C(C=C1)C)(F)F)=O | C22H25F2NO3
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | trans 3-(2,2-Difluoro-2-p-tolyl-ethoxy)-cyclopentylamine | 400 mg | FC(CO[C@@H]1C[C@H](CC1)N)(C1=CC=C(C=C1)C)F | C14H19F2NO
